US09107415B2
Synthesis of 2-(2-chloro-6-methoxy-4-prop-1-ynyl-phenyl)-4-prop-2-ynyl-cyclopentane-1,3-dione (Compound A-31)
A solution of 2-(2-chloro-6-methoxy-4-prop-1-ynyl-phenyl)-3-methoxy-5-prop-2-ynyl-cyclopent-2-en-1-one (0.042 g, 0.1277 mmol) in acetone (1.5 mL) and 2M aqueous HCl (0.5 mL) was heated under microwave irradiation at 100°C. for 30 minutes. The reaction mixture was allowed to cool to room temperature, and then was diluted with dichloromethane (5 ml) and water (5 ml), and then was separated by elution through a phase separation cartridge, washing with more dichloromethane. The organic filtrate was evaporated to dryness under reduced pressure to give a yellow solid. The crude product was dissolved in dichloromethane and adsorbed onto silica and then purified by flash chromatography over silica using an EtOAc/isohexane gradient to give the desired product as a mixture of atropisomers. 1H NMR (400 MHz, CDCl3) δ ppm 7.13 (s, 1H), 6.85 (s, 1H), 3.79 (s, 3H), 2.99-2.56 (m, 5H), 2.06 (s, 3H), 2.00 (s, 1H).

reactant | 2-(2-chloro-6-methoxy-4-prop-1-ynyl-phenyl)-3-methoxy-5-prop-2-ynyl-cyclopent-2-en-1-one | 0.1277 mmol, 0.042 g | ClC1=C(C(=CC(=C1)C#CC)OC)C=1C(C(CC1OC)CC#C)=O | C19H17ClO3
solvent | acetone | 1.5 mL | CC(=O)C | C3H6O
solvent | HCl | 2M, 0.5 mL | Cl | ClH
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | water | 5 ml | O | H2O
product | 2-(2-chloro-6-methoxy-4-prop-1-ynyl-phenyl)-4-prop-2-ynyl-cyclopentane-1,3-dione | ClC1=C(C(=CC(=C1)C#CC)OC)C1C(CC(C1=O)CC#C)=O | C18H15ClO3
